US08669271B2
Carbonic acid cyclobutyl ester 4-nitro-phenyl ester
A solution of 4-nitrophenyl chloroformate (6.00 g) in dichloromethane (12 mL) is added dropwise to an ice-cooled mixture of cyclobutanol (2.00 g), and pyridine (2.4 mL) in dichloromethane (10 mL). The resulting mixture is stirred over night at room temperature. Water and dichloromethane are added and the organic phase is separated, washed with brine and dried over MgSO4. The solvent is evaporated leaving the title compound as an oil, which is used without further purification. Yield: 6.61 g (crude); LC (method 2): tR=1.30 min; Mass spectrum (ESI+): m/z=260 [M+Na]+.

reactant | 4-nitrophenyl chloroformate | 6.00 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | cyclobutanol | 2.00 g | C1(CCC1)O | C4H8O
reactant | pyridine | 2.4 mL | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Carbonic acid cyclobutyl ester 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(OC1CCC1)=O | C11H11NO5
